US08623889B2
A mixture of N-(7-(2-chloro-5-fluoropyridin-3-yl)isoquinolin-3-yl)cyclopropanecarboxamide (105.4 mg, 0.3084 mmol), trimethylboroxine (129.0 uL, 0.9228 mmol), bis(di-tert-butyl(4-dimethylaminophenyl)phosphine)dichloropalladium(II) (22.3 mg, 0.0315 mmol), and potassium carbonate (112.5 mg, 0.8140 mmol) in 1,4-dioxane (2.0 mL, 26 mmol) was heated at 90° C. for 26 hours. The reaction mixture was then diluted with dichloromethane, washed with water, dried over MgSO4, filtered, and evaporated in vacuo. The crude product was purified via reverse phase HPLC and lyophilized to yield 50.6 mg (51%) of N-(7-(5-fluoro-2-methylpyridin-3-yl)isoquinolin-3-yl)cyclopropanecarboxamide. LCMS (ESI): RT (min)=3.972, M+H=322.0, method=E; 1H NMR (400 MHz, DMSO-d6) δ 10.96 (s, 1H), 9.19 (s, 1H), 8.52 (s, 2H), 8.12 (s, 1H), 7.97 (d, J=8.6 Hz, 1H), 7.86-7.67 (m, 2H), 2.47 (s, 3H), 2.08 (dd, J=12.4, 7.3 Hz, 1H), 0.86 (dd, J=9.3, 6.4 Hz, 4H).

reactant | N-(7-(2-chloro-5-fluoropyridin-3-yl)isoquinolin-3-yl)cyclopropanecarboxamide | 0.3084 mmol, 105.4 mg | ClC1=NC=C(C=C1C1=CC=C2C=C(N=CC2=C1)NC(=O)C1CC1)F | C18H13ClFN3O
reactant | trimethylboroxine | 0.9228 mmol, 129.0 uL | CB1OB(OB(O1)C)C | C3H9B3O3
reactant | potassium carbonate | 0.8140 mmol, 112.5 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 1,4-dioxane | 26 mmol, 2.0 mL | O1CCOCC1 | C4H8O2
solvent | dichloromethane | ClCCl | CH2Cl2
catalyst | bis(di-tert-butyl(4-dimethylaminophenyl)phosphine)dichloropalladium(II) | 0.0315 mmol, 22.3 mg | CC(C)(C)P(C1=CC=C(C=C1)N(C)C)C(C)(C)C.CC(C)(C)P(C1=CC=C(C=C1)N(C)C)C(C)(C)C.Cl[Pd]Cl
product | N-(7-(5-fluoro-2-methylpyridin-3-yl)isoquinolin-3-yl)cyclopropanecarboxamide | 50.6 mg, 51% | FC=1C=C(C(=NC1)C)C1=CC=C2C=C(N=CC2=C1)NC(=O)C1CC1 | C19H16FN3O
